US07371765B2
A suspension of 4-chloro-6-cyano-7-(3-(pyrrolidin-1-yl)propoxy)quinoline (500 mg, 1.58 mmol), 4-fluoro-5-hydroxy-2-methylindole (314 mg, 1.9 mmol) and cesium carbonate (775 mg, 2.38 mmol) in DMF (15 ml) was heated at 95° C. for 2 hours. After removal of the volatiles by evaporation under vacuum, the residue was dissolved in methylene chloride and poured onto a column of silica and eluted with a mixture of methylene chloride/methanol (90/10) followed by methylene chloride/methanol/methanol saturated with ammonia (88/10/2). The fractions containing the expected product were combined and evaporated to give 6-cyano-4-(4-fluoro-2-methylindol-5-yloxy)-7-(3-(pyrrolidin-1-yl)propoxy)quinoline (558 mg, 79%).

reactant | 4-chloro-6-cyano-7-(3-(pyrrolidin-1-yl)propoxy)quinoline | 1.58 mmol, 500 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCCN1CCCC1 | C17H18ClN3O
reactant | 4-fluoro-5-hydroxy-2-methylindole | 1.9 mmol, 314 mg | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
reactant | cesium carbonate | 2.38 mmol, 775 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 6-cyano-4-(4-fluoro-2-methylindol-5-yloxy)-7-(3-(pyrrolidin-1-yl)propoxy)quinoline | 558 mg, 79% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCN1CCCC1)OC=1C(=C2C=C(NC2=CC1)C)F | C26H25FN4O2
